US09212187B2
1-[5-(1-Methyl-2-oxo-1,2-dihydro-quinolin-6-yloxy)-pentyl]-3-phenyl-1-(2-pyridin-3-yl-ethyl)-urea hydrochloride
N-Ethyldiisopropylamine (0.192 ml) was added to a dichloromethane solution(5 ml) of 1-methyl-6-[5-(2-pyridin-3-ylethylamino)pentyloxy]-1H-quinolin-2-one dihydrochloride (219 mg). The mixture was stirred at room temperature for 5 minutes. The reaction mixture was condensed under reduced pressure. Phenylisocyanate(0.065 ml) and toluene(2 ml) were added to the residue. The mixture was stirred at 100° C. for 1 hour. The reaction mixture was purified by NH silica gel column chromatography (ethyl acetate: hexane=1:1→1:0). The purified product was concentrated under reduced pressure. A 1N-hydrogen chloride ethanol solution was added to the solution of the residue in ethanol, and stirred for 30 minutes at room temperature. The precipitated insoluble matter was collected by filtration, washed with ethyl acetate, and dried to give the title compound (147 mg) as a pale yellow flakes.

reactant | N-Ethyldiisopropylamine | 0.192 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
reactant | 1-methyl-6-[5-(2-pyridin-3-ylethylamino)pentyloxy]-1H-quinolin-2-one dihydrochloride | 219 mg | Cl.Cl.CN1C(C=CC2=CC(=CC=C12)OCCCCCNCCC=1C=NC=CC1)=O
reactant | Phenylisocyanate | 0.065 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[5-(1-Methyl-2-oxo-1,2-dihydro-quinolin-6-yloxy)-pentyl]-3-phenyl-1-(2-pyridin-3-yl-ethyl)-urea hydrochloride | 147 mg | Cl.CN1C(C=CC2=CC(=CC=C12)OCCCCCN(C(=O)NC1=CC=CC=C1)CCC=1C=NC=CC1)=O | InChI=1S/C29H32N4O3.ClH/c1-32-27-14-13-26(21-24(27)12-15-28(32)34)36-20-7-3-6-18-33(19-16-23-9-8-17-30-22-23)29(35)31-25-10-4-2-5-11-25;/h2,4-5,8-15,17,21-22H,3,6-7,16,18-20H2,1H3,(H,31,35);1H
